US06982348B2
To a solution of (1RS,2SR)-2-amino-3-[3-(neopentyloxy)phenyl]-1-(3-chlorophenyl)-1-propanol (0.40 g, 0.86 mmol) in N,N-dimethylformamide (5 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (0.17 g, 0.90 mmol) and 1-hydroxybenzotriazole monohydrate (0.138 g, 0.90 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.173 g, 0.90 mmol) was finally added. The mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1, 0:1), and recrystallization (hexane-ethyl acetate) to give N-[(1RS,2SR)-1-[3-(neopentyloxy)benzyl]-2-(3-chlorophenyl)-2-hydroxyethyl]-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide (0.174 g, 39%) as colorless crystals.

reactant | (1RS,2SR)-2-amino-3-[3-(neopentyloxy)phenyl]-1-(3-chlorophenyl)-1-propanol | 0.86 mmol, 0.40 g | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)OCC(C)(C)C | C20H26ClNO2
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.90 mmol, 0.17 g | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-hydroxybenzotriazole monohydrate | 0.90 mmol, 0.138 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.90 mmol, 0.173 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(1RS,2SR)-1-[3-(neopentyloxy)benzyl]-2-(3-chlorophenyl)-2-hydroxyethyl]-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide | 0.174 g, 39% | C(C(C)(C)C)OC=1C=C(CC(C(O)C2=CC(=CC=C2)Cl)NC(=O)C=2C=CC=C3C2C=CCCC3)C=CC1 | C32H36ClNO3
